US07850948B2
[2-(4-Acetylamino-2-methoxy-benzoylamino)-ethyl]-diethyl-methyl-ammonium iodide
307 mg (1 mmol) of 4-acetylamino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide is mixed in 8 ml of dimethylformamide with 358 mg (1.1 mmol) of cesium carbonate and 312 mg (2.2 mmol) of iodomethane, and it is heated under argon in a pressure vessel for 2.5 hours to a bath temperature of 80° C. After concentration by evaporation under vacuum, it is taken up in 25 ml of saturated sodium bicarbonate solution and extracted three times with 25 ml each of methylene chloride. The collected organic phase is dried, filtered and concentrated by evaporation, and 145 mg (32% of theory) of [2-(4-acetylamino-2-methoxy-benzoylamino)-ethyl]-diethyl-methyl-ammonium iodide with a melting point >300° C. is obtained.

reactant | 4-acetylamino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 1 mmol, 307 mg | C(C)(=O)NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C16H25N3O3
reactant | cesium carbonate | 1.1 mmol, 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 2.2 mmol, 312 mg | IC | CH3I
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | [2-(4-Acetylamino-2-methoxy-benzoylamino)-ethyl]-diethyl-methyl-ammonium iodide | [I-].C(C)(=O)NC1=CC(=C(C(=O)NCC[N+](C)(CC)CC)C=C1)OC | InChI=1S/C17H27N3O3.HI/c1-6-20(4,7-2)11-10-18-17(22)15-9-8-14(19-13(3)21)12-16(15)23-5;/h8-9,12H,6-7,10-11H2,1-5H3,(H-,18,19,21,22);1H
